US07012099B2
In the manner described for Example 6, 2-(dimethylaminothiophen-3-ylmethyl)cyclohexanone was first prepared from dimethylamine hydrochloride, thiophene-3-carbaldehyde and 1-(pyrrolidino)-1-cyclohexene and then, by reaction with 3-chloromethyl benzotrifluoride in a Grignard reaction and subsequent precipitation of the hydrochloride, 2-(dimethylaminothiophen-3-ylmethyl)-1-(3-trifluoromethylbenzyl)cyclohexanol hydrochloride was obtained.

reactant | 2-(dimethylaminothiophen-3-ylmethyl)cyclohexanone | CN(C)C(C1C(CCCC1)=O)C1=CSC=C1 | C13H19NOS
reactant | dimethylamine hydrochloride | Cl.CNC
reactant | thiophene-3-carbaldehyde | S1C=C(C=C1)C=O | C5H4OS
reactant | 1-(pyrrolidino)-1-cyclohexene | N1(CCCC1)C1=CCCCC1 | C10H17N
reactant | 3-chloromethyl benzotrifluoride | ClCC=1C=C(C=CC1)C(F)(F)F | C8H6ClF3
reactant | hydrochloride | Cl | ClH
product | 2-(dimethylaminothiophen-3-ylmethyl)-1-(3-trifluoromethylbenzyl)cyclohexanol hydrochloride | Cl.CN(C)C(C1C(CCCC1)(O)CC1=CC(=CC=C1)C(F)(F)F)C1=CSC=C1 | InChI=1S/C21H26F3NOS.ClH/c1-25(2)19(16-9-11-27-14-16)18-8-3-4-10-20(18,26)13-15-6-5-7-17(12-15)21(22,23)24;/h5-7,9,11-12,14,18-19,26H,3-4,8,10,13H2,1-2H3;1H
